US05162354
Preparation of 3-Bromo-5-chloromethyl-2-oxazolidinone (Compound 1)
13.55 grams (0.1 mole) 5-chloromethyl-2-oxazolidinone, prepared in Example 1, were dissolved in 90 mL of a 1 M NaOH solution and then cooled to 0° C. 17.6 grams (0.11 moles) bromine were added dropwise, with stirring over a period of fifteen minutes. The product was extracted with methylene chloride. The extracts were then combined, dried and the solvent removed using a rotary evaporator to yield an orange solid. Proton NMR Data: δ3.15 (m, 1 proton), 3.48 (m, 1 proton), 3.7 (m, 2 protons), 4.7 (m, 1 proton) Elemental Analysis: Found (theory), C 24.05 (22.40), H 2.71 (2.35), N 6.98 (6.53), Cl 18.12 (16.53), Br 31.18 (37.26).

reactant | 5-chloromethyl-2-oxazolidinone | 0.1 mole, 13.55 grams | ClCC1CNC(O1)=O | C4H6ClNO2
reactant | bromine | 0.11 moles, 17.6 grams | BrBr | Br2
solvent | NaOH | 1 M | [OH-].[Na+]
product | 3-Bromo-5-chloromethyl-2-oxazolidinone | BrN1C(OC(C1)CCl)=O | C4H5BrClNO2
